US08664234B2
A solution of crude 1,5-anhydro-3-(6-bromo-4-oxobenzo[h]quinazolin-3(4H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol (1.01 g, 2.06 mmol) in DMF (17 mL) was cooled at 0° C. Sodium hydride (95%, 62 mg, 2.58 mmol) was added and the resulting yellow mix was stirred for 5 minutes. Iodomethane (0.27 mL, 4.32 mmol) was added and the reaction was stored in the freezer overnight. LCMS showed the reaction was incomplete. It was put back in an ice bath and additional sodium hydride (50 mg) was added. After 20 minutes, the completed reaction was quenched with ammonium chloride and allowed to warm to room temperature. The reaction was diluted with water and extracted 2× with CH2Cl2. The organics were washed with brine, dried over MgSO4, filtered, concentrated, and dried. The residue was purified via silica gel chromatography, eluting with 10-55% ethyl acetate in hexanes to provide 1,5-anhydro-3-(6-bromo-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol that gave a mass ion (ES+) of 506.9 for [M+H]+.

reactant | 1,5-anhydro-3-(6-bromo-4-oxobenzo[h]quinazolin-3(4H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol | 2.06 mmol, 1.01 g | BrC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O[Si](C)(C)C(C)(C)C)=O | C23H29BrN2O3Si
reactant | Sodium hydride | 2.58 mmol, 62 mg | [H-].[Na+]
reactant | Iodomethane | 4.32 mmol, 0.27 mL | IC | CH3I
reactant | sodium hydride | 50 mg | [H-].[Na+]
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 1,5-anhydro-3-(6-bromo-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol | BrC=1C=C2C(N(CNC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O[Si](C)(C)C(C)(C)C)=O | C23H31BrN2O3Si
